US07544812B2
A mixture of trifluromethyl-p-cresol (9.74 g, 60.1 mmol), ethyl 2-bromopropionate (10.9 g, 60.1 mmol) and Cs2CO3 (39.15 g, 120 mmol) in DMF (450 mL) was heated at 90° C. under N2 for 16 h. The reaction was cooled and filtered using Et2O to rinse the solids. The filtrate was washed with 1 N HCl (200 mL) and water. The organic layer was dried (Na2SO4) and the solvent removed in vacuo to afford 19.03 g of crude product that was purified by flash chromatography using 6:1 hexanes:acetone to afford 13.96 g (89%) 2-(4-trifluoromethyl-phenoxy)-propionic acid ethyl ester. Rf=0.63 (1:1 hexanes:acetone). 1NMR.

reactant | trifluromethyl-p-cresol | 60.1 mmol, 9.74 g | FC(F)(F)C1=CC(=CC=C1O)C | C8H7F3O
reactant | ethyl 2-bromopropionate | 60.1 mmol, 10.9 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | Cs2CO3 | 120 mmol, 39.15 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 450 mL | CN(C)C=O | C3H7NO
product | 2-(4-trifluoromethyl-phenoxy)-propionic acid ethyl ester | 13.96 g, 89% | C(C)OC(C(C)OC1=CC=C(C=C1)C(F)(F)F)=O | C12H13F3O3
